US08466290B2
N-[5-(2-furyl)-1,3,4-oxadiazol-2-yl]-2-hydroxy-4-quinolinecarboxamide (compound Ia-34)
The title compound was synthesized according to the synthesis method of a compound Ia-46 described later using 2-hydroxy-4-quinolinecarboxylic acid, commercially available amine, HBTU, and HOBt instead of 2-(4-fluorophenyl)-4-quinolinecarboxylic acid, HATU, and HOAt.

reactant | 2-hydroxy-4-quinolinecarboxylic acid | OC1=NC2=CC=CC=C2C(=C1)C(=O)O | C10H7NO3
reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAt | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
product | N-[5-(2-furyl)-1,3,4-oxadiazol-2-yl]-2-hydroxy-4-quinolinecarboxamide | O1C(=CC=C1)C1=NN=C(O1)NC(=O)C1=CC(=NC2=CC=CC=C12)O | C16H10N4O4
